US07648986B2
Step 2: Preparation of methyl 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylate
To a solution of methyl 3-amino-2-thiophenecarboxylate (0.82 g, 5.2 mmol) and 2-quinoxalinecarbonyl chloride at 0° C. was added pyridine (1 mL) dropwise. The resulting solution was stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue was dissolved in EtOAc, washed with saturated NH4Cl, and NaHCO3. The organic layer was the dried and concentrated in vacuo. The crude product was used directly in the next step without further purification.

reactant | methyl 3-amino-2-thiophenecarboxylate | 5.2 mmol, 0.82 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | 2-quinoxalinecarbonyl chloride | N1=C(C=NC2=CC=CC=C12)C(=O)Cl | C9H5ClN2O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylate | N1=C(C=NC2=CC=CC=C12)C(=O)NC1=C(SC=C1)C(=O)OC | C15H11N3O3S
